US07119221B2
A solution of ethyl 11-[1-(t-butoxycarbonyl)cyclopropyl]-2,2-dimethyl-7-oxoundecanoate (9.27 g, >90% pure by NMR, 21.0 mmol) in HCO2H (50 mL) was stirred for 1.5 h, evaporated in vacuo and coevaporated from toluene (10 mL). The remaining residue was dissolved in a mixture of EtOH and H2O (2:1, 100 mL) and NaOH (5.33 g, 132 mmol) was added. The resulting clear solution was warmed to 80° C. and after 5 h EtOH was evaporated in vacuo. The remaining solution was diluted with H2O to ˜100 mL, extracted with Et2O (3×100 mL), acidified to pH ˜1 with conc aqueous HCl (˜9 mL) and extracted with Et2O (3×100 mL). The latter organic layers were combined, dried (Na2SO4) and evaporated in vacuo. The remaining residue was purified by column chromatography (silica, heptane:EtOAc=2:1 (containing 1% (v/v) HOAc)) to give 11-(1-carboxycyclopropyl)-2,2-dimethyl-7-oxoundecanoic acid (5.83 g, >90% pure by 1H NMR, 80%) as a slightly yellow oil which turns solid when stored at −18° C. for several days. mp: 49–52° C. 1H NMR (CD3OD): δ=2.44 (t, J=7.2 Hz, 4H), 1.57–1.42 (m, 10H), 1.30–1.19 (m, 2H), 1.17–1.07 (m, 2H), 1.14 (s, 6H), 0.59 (dd, J=6.6, 3.9 Hz, 2H). 13C NMR (CD3OD): δ=213.5, 181.4, 178.9, 43.5, 43.4, 43.0, 41.7, 34.9, 28.5, 25.9 (3×), 25.5, 25.2, 24.3, 16.4 (2×). Anal. calcd for C17H28O5: C, 65.36; H, 9.03, found: C, 65.06; H, 9.02.

reactant | ethyl 11-[1-(t-butoxycarbonyl)cyclopropyl]-2,2-dimethyl-7-oxoundecanoate | 9.27 g | C(C)(C)(C)OC(=O)C1(CC1)CCCCC(CCCCC(C(=O)OCC)(C)C)=O | C23H40O5
reactant | NaOH | 132 mmol, 5.33 g | [OH-].[Na+]
solvent | HCO2H | 50 mL | C(=O)O | CH2O2
solvent | EtOH | CCO | C2H6O
solvent | H2O | 100 mL | O | H2O
product | 11-(1-carboxycyclopropyl)-2,2-dimethyl-7-oxoundecanoic acid | 5.83 g, >90% | C(=O)(O)C1(CC1)CCCCC(CCCCC(C(=O)O)(C)C)=O | C17H28O5
